US03950307
Preparation of N-(2,4,6-Tribromobenzoyl)-3,4,5,6-tetrachlorophthalimide
The potassium salt of 3,4,5,6-tetrachlorophthalimide (0.10 mole) and dioxane (1200 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 2,4,6-Tribromobenzoyl chloride (0.10 mole) is then added dropwise, with stirring, to the reaction mixture at room temperature. After the addition is completed the reaction mixture is heated at reflux for a period of about 1 hour. After this time the reaction mixture is filtered and the filtrate is stripped of solvent to yield the desired product N-(2,4,6-tribromobenzoyl)-3,4,5,6-tetrachlorophthalimide.

reactant | potassium | [K] | K
reactant | 3,4,5,6-tetrachlorophthalimide | 0.10 mole | ClC1=C2C(C(=O)NC2=O)=C(C(=C1Cl)Cl)Cl | C8HCl4NO2
reactant | 2,4,6-Tribromobenzoyl chloride | 0.10 mole | BrC1=C(C(=O)Cl)C(=CC(=C1)Br)Br | C7H2Br3ClO
solvent | dioxane | 1200 ml | O1CCOCC1 | C4H8O2
product | N-(2,4,6-tribromobenzoyl)-3,4,5,6-tetrachlorophthalimide | BrC1=C(C(=O)N2C(C=3C(C2=O)=C(C(=C(C3Cl)Cl)Cl)Cl)=O)C(=CC(=C1)Br)Br | C15H2Br3Cl4NO3
